US07943748B2
(7) Synthesis of (2R,3S,4R,5R,6S)-2-Hydroxymethyl-6-[3-(5-ethylbenzo[b]thiophen-2-ylmethyl)naphthalen-1-yl]-tetrahydropyran-3,4,5-triol
Under a nitrogen atmosphere, dimethylsulfide (2.66 ml) and a boron trifluoride-diethyl ether complex (1.03 ml, 8.12 mmol) were added to a solution of (3R,4R,5S,6R)-3,4,5-trisbenzyloxy-2-benzyloxymethyl-6-[3-(5-ethylbenzo[b]-thiophen-2-ylmethyl)naphthalen-1-yl]tetrahydropyran (670 mg, 0.81 mmol) in methylene chloride (4 ml) under cooling with ice. The reaction mixture was stirred at room temperature for 1.5 days, and then a 50% methanol aqueous solution (20 ml) was added under cooling with ice and the mixture was extracted with methylene chloride. The organic layer was washed with a saturated sodium chloride aqueous solution and dried with sodium sulfate, and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=methylene chloride:methanol (50:1)] to obtain the title compound (119 mg, 32%).

reactant | dimethylsulfide | 2.66 ml | CSC | C2H6S
reactant | (3R,4R,5S,6R)-3,4,5-trisbenzyloxy-2-benzyloxymethyl-6-[3-(5-ethylbenzo[b]-thiophen-2-ylmethyl)naphthalen-1-yl]tetrahydropyran | 0.81 mmol, 670 mg | C(C1=CC=CC=C1)O[C@@H]1C(O[C@@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1=CC(=CC2=CC=CC=C12)CC1=CC2=C(S1)C=CC(=C2)CC)COCC2=CC=CC=C2 | C55H52O5S
reactant | methanol | 20 ml | CO | CH4O
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | (2R,3S,4R,5R,6S)-2-Hydroxymethyl-6-[3-(5-ethylbenzo[b]thiophen-2-ylmethyl)naphthalen-1-yl]-tetrahydropyran-3,4,5-triol | 119 mg, 32% | OC[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1O)O)O)C1=CC(=CC2=CC=CC=C12)CC1=CC2=C(S1)C=CC(=C2)CC | C27H28O5S
